US05532241
HCl gas is passed into a boiling solution of 2.5 g of 1-[4-(5-carboxyindol-3-yl)butyl]-4-(2,3-dihydrobenzofuran-5-yl)piperazine in 50 ml of absolute methanol for 2 hours. The mixture is then boiled for a further hour, worked up in the customary manner and gives 1-[4-(5-methoxycarbonylindol-3-yl)butyl]-4-(2,3-dihydrobenzofuran-5-yl)piperazine.

reactant | HCl | Cl | ClH
reactant | 1-[4-(5-carboxyindol-3-yl)butyl]-4-(2,3-dihydrobenzofuran-5-yl)piperazine | 2.5 g | C(=O)(O)C=1C=C2C(=CNC2=CC1)CCCCN1CCN(CC1)C=1C=CC2=C(CCO2)C1 | C25H29N3O3
reactant | methanol | 50 ml | CO | CH4O
product | 1-[4-(5-methoxycarbonylindol-3-yl)butyl]-4-(2,3-dihydrobenzofuran-5-yl)piperazine | COC(=O)C=1C=C2C(=CNC2=CC1)CCCCN1CCN(CC1)C=1C=CC2=C(CCO2)C1 | C26H31N3O3
